US08039463B2
HOBt (38 mg, 0.29 mmol) and DIEA (111 mg, 0.85 mmol) were added to a stirred solution of N-(4-phenyl-thiazol-2-yl)-malonamic acid (75 mg, 0.29 mmol) in DMF (1.5 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (66 mg, 0.34 mmol) followed by piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride (92 mg, 0.3 mmol) were added. The reaction mixture was stirred at room temperature overnight then diluted with water and the product extracted with ethyl acetate. The organic layer was washed with sodium bicarbonate and brine solution, dried over Na2SO4 and concentrated to afford 21 mg (13%) of 3-Oxo-N-(4-phenyl-thiazol-2-yl)-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide. LCMS: 503.13 (M+1)+, 97.4%, 1H NMR: (CDCl3): δ 7.85 (d, 2H), 7.74 (d, 1H), 7.6 (m, 2H), 7.4 (td, 2H), 7.33 (m, 2H), 7.15 (d, 1H), 4.02 (m, 2H), 3.7 (m, 4H), 3.52 (m, 2H), 3.24 (m, 2H).

reactant | HOBt | 0.29 mmol, 38 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.85 mmol, 111 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(4-phenyl-thiazol-2-yl)-malonamic acid | 0.29 mmol, 75 mg | C1(=CC=CC=C1)C=1N=C(SC1)NC(CC(=O)O)=O | C12H10N2O3S
reactant | EDCI.HCl | 0.34 mmol, 66 mg | CCN=C=NCCCN(C)C.Cl
reactant | piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride | 0.3 mmol, 92 mg | Cl.N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-Oxo-N-(4-phenyl-thiazol-2-yl)-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide | 21 mg, 13% | O=C(CC(=O)NC=1SC=C(N1)C1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H21F3N4O3S
